US07091357B2
13d. (S)-1-(7-Methyl-oct-6-enyl)-3-(1-methyl-pyrrolidin-2-yl)-pyridinium bromide hydrobromide (NONB-6e7M)
To a stired solution of (S)-nicotine (0.33 g, 2.0 mmol) in AcOH (10 ml) was added 8-bromo-2-methyl-oct-2-ene (1.05 g, 5.12 mmol). The mixture was heated at reflux for 3 days. AcOH was evaporated and the residue was recrystallized in ethyl acetate-CHCl3 to (S)-1-(7-methyl-oct-6-enyl)-3-(1-methyl-pyrrolidin-2-yl)-pyridinium bromide hydrobromide (NONB-6e7M) (0.58 g, 63%) as hygroscopic white crystals: 1H NMR (300 MHz, CDCl3) δ 11.61 (1H, s), 10.38 (1H, s), 9.52 (1H, d, J=8.1 Hz), 9.17 (1H, d, J=6.0 Hz), 8.31 (1H, dd, J=8.1, 6.0 Hz), 5.75 (1H, m), 5.03(1H, m), 4.81 (2H, m), 4.00 (1H, m), 3.37 (1H, m), 2.98 (3H, s), 1.80–2.25 (4H, m), 1.64 (3H, s), 1.55 (3H, s), 1.39 (4H, m); 13C NMR (75 MHz, CDCl3) δ 147.49, 146.49, 144.86, 134.65, 132.20, 128.91, 123.74, 67.14, 62.95, 56.09, 38.69, 32.02, 31.67, 29.34, 27.87, 26.04, 21.91, 18.05; Anal. Calcd for C19H32Br2N2.0.7H2O: C, 49.52; H, 7.28; N, 6.08. Found: C, 49.44; H, 7.18; N, 6.07.

reactant | (S)-nicotine | 2.0 mmol, 0.33 g | N1=CC=CC(=C1)[C@H]1N(C)CCC1 | C10H14N2
reactant | 8-bromo-2-methyl-oct-2-ene | 5.12 mmol, 1.05 g | BrCCCCCC=C(C)C | C9H17Br
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
product | (S)-1-(7-Methyl-oct-6-enyl)-3-(1-methyl-pyrrolidin-2-yl)-pyridinium bromide hydrobromide | Br.[Br-].CC(=CCCCCC[N+]1=CC(=CC=C1)[C@H]1N(CCC1)C)C | InChI=1S/C19H31N2.2BrH/c1-17(2)10-6-4-5-7-14-21-15-8-11-18(16-21)19-12-9-13-20(19)3;;/h8,10-11,15-16,19H,4-7,9,12-14H2,1-3H3;2*1H/q+1;;/p-1/t19-;;/m0../s1
